US08222243B2
[3-(4-Methyl-piperazin-1-yl)-piperidin-1-yl]-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone, hydrochloride
Prepared from 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 1-Methyl-4-piperidin-3-yl-piperazine, tri-hydrochloride by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperdine derivative. An additional 3 equivalents of triethylamine was used. The reaction mixture was evaporated to an oil, triturated and filtered with the aid of water, then with a saturated aqueous NaHCO3 solution. The residual oil was then dissolved in EtOAc (2 mL), dried over MgSO4, filtered, and evaporated to an oil. The crude oil was then dissolved in diethyl ether (1 mL) and treated with a 4 N solution of hydrogen chloride in 1,4,-dioxane to precipitate product as a colorless solid. The solid was filtered with the aid of diethyl ether and air dried to afford product as a colorless solid (47 mg, 53%). LC/MS 4.62 min, [M+1]+ 443.

reactant | 5-(5-Trifluoromethyl-4-methyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | FC(C1=C(C(=NO1)C1=CC=C(S1)C(=O)O)C)(F)F | C10H6F3NO3S
reactant | 1-Methyl-4-piperidin-3-yl-piperazine, tri-hydrochloride | Cl.Cl.Cl.CN1CCN(CC1)C1CNCCC1
reactant | piperdine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | 3 equivalents | C(C)N(CC)CC | C6H15N
product | [3-(4-Methyl-piperazin-1-yl)-piperidin-1-yl]-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophen-2-yl]-methanone, hydrochloride | 47 mg, 53% | Cl.CN1CCN(CC1)C1CN(CCC1)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | InChI=1S/C20H25F3N4O2S.ClH/c1-13-17(24-29-18(13)20(21,22)23)15-5-6-16(30-15)19(28)27-7-3-4-14(12-27)26-10-8-25(2)9-11-26;/h5-6,14H,3-4,7-12H2,1-2H3;1H
